US06603008B1
5-[5-(4-Bromophenyl)-4-chloro-3-(trifluoromethyl)-1H-pyrazol-1-yl]-2-pyridinesulfonamide (Step 2)
To a solution of 5-[5-(4-bromophenyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl]-2-pyridinesulfonamide (350 mg, 0.783 mmol) in N,N-dimethylformamide (12 ml) was added N-chlorosuccinimide (1.05 g, 7.83 mmol) at room temperature. After the mixture was stirred for 18 hr, 1.05 g of N-chlorosuccinimide was added. The resulting mixture was stirred for further 36 hr. 20 ml of saturated aqueous sodium thiosulfate and 50 ml of diethyl ether were added and the two-phase-mixture was stirred for 0.5 hr. The separated organic layer was washed with water (20 ml×3) and dried over magnesium sulfate. Removal of solvent gave a pale yellow gum, which was chromatographed on a column of silica gel (50 g) eluting with ethyl acetate/hexane (1:3) to afford 236 mg (63%) of the title compound as a white solid.

reactant | 5-[5-(4-bromophenyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl]-2-pyridinesulfonamide | 0.783 mmol, 350 mg | BrC1=CC=C(C=C1)C1=CC(=NN1C=1C=CC(=NC1)S(=O)(=O)N)C(F)(F)F | C15H10BrF3N4O2S
reactant | N-chlorosuccinimide | 7.83 mmol, 1.05 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | N-chlorosuccinimide | 1.05 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | sodium thiosulfate | 20 ml | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | N,N-dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
product | 5-[5-(4-Bromophenyl)-4-chloro-3-(trifluoromethyl)-1H-pyrazol-1-yl]-2-pyridinesulfonamide | 236 mg, 63% | BrC1=CC=C(C=C1)C1=C(C(=NN1C=1C=CC(=NC1)S(=O)(=O)N)C(F)(F)F)Cl | C15H9BrClF3N4O2S
